US05677434
4-Aminobenzenesulfonamide (52 g, 0.3 mol) was dissolved in 200 ml H2O containing 30 ml 30% NaOH and added to 75 ml 4N NaNO2. The resulting solution was poured over 100 g crushed ice containing 100 ml 30% HCl at a rate needed to maintain a reaction temperature of 5° C. The diazotization step was carried out for 40 min and the resultant diazonium salt was then added slowly to a stirred solution of 99.95 g Na2 SO3 in 250 ml water at 10° C., and the reaction was continued for 1 h. At this point, the reaction temperature was raised to 70° C. and 300 ml 30% HCl was added over 30 min. The precipitated product was stirred overnight, collected by filtration, washed with cold water and dried. The phenylhydrazine-4-sulfonamide obtained (47 g) was dissolved in 600 ml H2O containing 40 ml 30% NaOH, and to this solution 27.5 g (0.26 mol) of benzaldehyde was added at 50°-55° C. After stirring for 1 h, the temperature was reduced to 30° C. and 24 ml 30% HCl was added. The precipitated product was collected by filtration, washed with cold water and dried, to give 47.2 g of benzaldehyde phenylhydrazone-4-sulfonamide (m.p. 199° C.).

reactant | 4-Aminobenzenesulfonamide | 0.3 mol, 52 g | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | NaNO2 | 4N, 75 ml | N(=O)[O-].[Na+]
reactant | HCl | 300 ml | Cl | ClH
solvent | H2O | 200 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | phenylhydrazine-4-sulfonamide | C1=CC(=CC=C1NN)S(=O)(=O)N | C6H9N3O2S
